US05885986
1.13 g (0.00283 mol) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-6-one in 50 ml of ethyl acetate were treated with 0.84 ml (0.00311 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1/2 hr. the suspension was suction filtered. The yellowish crystals were dissolved in hot acetonitrile and recrystallized by the addition of ether. There were obtained 1.05 g (85%) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one hydrochloride (1:1) as light beige crystals; m.p. 237°-241° (dec.).

reactant | 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-6-one | 0.00283 mol, 1.13 g | C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C20H25N5O2S
reactant | hydrochloric acid | 0.00311 mol, 3.7N, 0.84 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one hydrochloride | 1.05 g, 85% | Cl.C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | InChI=1S/C20H25N5O2S.ClH/c1-4-7-24(8-5-2)11-14-10-21-19(27-14)17-16-12-23(3)20(26)18-15(6-9-28-18)25(16)13-22-17;/h6,9-10,13H,4-5,7-8,11-12H2,1-3H3;1H
